US06066657
4-(4-Bromo-7-methoxybenzofuran-2-ylmethoxy)-piperidine
Trifluoroacetic acid (5 ml) was added to a stirred solution of 4-(4-bromo-7-methoxybenzofuran-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester (1.3 g) in dichloromethane (50 ml). After stirring at room temperate overnight the reaction was diluted with dichloromethane (150 ml) washed with 1M sodium hydroxide (100 ml) and dried over magnesium sulfate. The organic phase was concentrated in vacuo to afford the title compound as a pale yellow gum (0.98 g).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(4-bromo-7-methoxybenzofuran-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC=1OC2=C(C1)C(=CC=C2OC)Br | C20H26BrNO5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-(4-Bromo-7-methoxybenzofuran-2-ylmethoxy)-piperidine | 0.98 g | BrC1=CC=C(C2=C1C=C(O2)COC2CCNCC2)OC | C15H18BrNO3
